US09334269B2
tert-Butyl 3-((dimethylamino)methylene)-4-oxopiperidine-1-carboxylate (2.1 g, 8.3 mmol) was dissolved in MeOH (100 mL), and water (50 mL) was added followed by the addition of sodium carbonate (0.53 g, 5.0 mmol) and phenyl hydrazine hydrochloride (1.43 g, 9.9 mmol). Finally, acetic acid (1 mL) was added and the resulting reaction mixture was stirred at RT for 1 h. The reaction mixture was made basic by adding saturated aqueous sodium bicarbonate (ca. 20 mL) and the MeOH was removed under reduced pressure. The resulting reaction mixture was extracted with CH2Cl2 (3×40 mL) and the combined extracts were dried over anhydrous sodium sulfate, filtered, and concentrated to afford the crude product. Purification by flash chromatography on silica gel using 20% EtOAc in hexanes as the eluent afforded 1-phenyl-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine (1.63 g, 66%) as a yellow oil.

reactant | tert-Butyl 3-((dimethylamino)methylene)-4-oxopiperidine-1-carboxylate | 8.3 mmol, 2.1 g | CN(C)C=C1CN(CCC1=O)C(=O)OC(C)(C)C | C13H22N2O3
reactant | sodium carbonate | 5.0 mmol, 0.53 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | phenyl hydrazine hydrochloride | 9.9 mmol, 1.43 g | Cl.C1(=CC=CC=C1)NN
reactant | sodium bicarbonate | ca. 20 mL | C([O-])(O)=O.[Na+]
solvent | MeOH | 100 mL | CO | CH4O
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | water | 50 mL | O | H2O
product | 1-phenyl-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine | 1.63 g, 66% | C1(=CC=CC=C1)N1N=CC=2CNCCC21 | C12H13N3
